US06703347B2
A solution of lithium diisopropylamide (2.0M solution in tetrahydrofuran/ethylbenzene/heptane, 4.55 ml, 0.009 mol) was added, dropwise, to a solution of methyl 2-[2-(2,2-dimethylpropyl)benzoxazol-5-yl]propionate (2.5 g, 0.009 mol) in tetrahydrofran (65 ml) at −70° C. under a nitrogen atmosphere and the mixture was stirred at −70° C. for 1 hour. A solution of N-fluorobenzensulfonimide (2.9 g. 0.009 mol) in tetrahydrofuran (15 ml) was added and the mixture was stirred at −70° C. for a further 1 hour. The cooling bath was removed and the reaction mixture was allowed to warm to room temperature, with stirring over 1½ hours. The mixture was quenched with water, acidified with dilute aqueous hydrochloric acid and extracted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate:dichloromethane 1:99, to give methyl 2-[2-(2,2-dimethylpropyl)benzoxazol-5-yl]-2-fluoropropionate (2.06 g).

reactant | lithium diisopropylamide | 0.009 mol, 2.0M, 4.55 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl 2-[2-(2,2-dimethylpropyl)benzoxazol-5-yl]propionate | 0.009 mol, 2.5 g | CC(CC=1OC2=C(N1)C=C(C=C2)C(C(=O)OC)C)(C)C | C16H21NO3
reactant | N-fluorobenzensulfonimide | 0.009 mol, 2.9 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | methyl 2-[2-(2,2-dimethylpropyl)benzoxazol-5-yl]-2-fluoropropionate | 2.06 g | CC(CC=1OC2=C(N1)C=C(C=C2)C(C(=O)OC)(C)F)(C)C | C16H20FNO3
